US05472979
Stage A: 4,4-Diethoxy-N-benzylcyclohexylamine
This compound is obtained according to the process described in Tet. Lett. 5595-5598, 1990. To 270 mmol of 4,4-diethoxycyclohexanone in 700 ml of stirred anhydrous 1,2-dichloroethane, at room temperature and under a nitrogen atmosphere, are added 270 mmol of benzylamine in 50 ml of 1,2-dichloroethane, 270 mmol of acetic acid and then 80 g of sodium triacetoxyborohydride. After stirring for 3 hours, 11 of saturated sodium hydrogen carbonate solution is poured onto the reaction medium. The pH is brought to 8 using 1N sodium hydroxide. The organic phase is recovered, dried and evaporated. The expected product is then obtained after purification of the residual oil by chromatography on a column of silica, using a dichloromethane/methanol/aqueous ammonia (95/5/0.5) mixture as eluent.

reactant | 4,4-diethoxycyclohexanone | 270 mmol | C(C)OC1(CCC(CC1)=O)OCC | C10H18O3
reactant | benzylamine | 270 mmol | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 270 mmol | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 80 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 700 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 4,4-Diethoxy-N-benzylcyclohexylamine | Yield: 80% | C(C)OC1(CCC(CC1)NCC1=CC=CC=C1)OCC | C17H27NO2
